US06087380
b) 2-[N-(4-amidinophenyl)-N-methyl-aminomethyl]-benzothiazol-5-yl-carboxylicacid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride
Prepared analogously to Example 9 from 2-[N-(4-cyanophenyl)-N-methyl-aminomethyl]-benzothiazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide, ethanolic hydrochloric acid, ethanol and ammonium carbonate. Yield: 73% of theory, C28H29N5O3S (515.64) Rf value:0.29 (silica gel; methylene chloride/ethanol=4:1+a few drops of acetic acid) EKA mass spectrum: (M+H)+ =516

reactant | 2-[N-(4-cyanophenyl)-N-methyl-aminomethyl]-benzothiazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide | C1(=CC=CC=C1)N(C(=O)C=1C=CC2=C(N=C(S2)CN(C)C2=CC=C(C=C2)C#N)C1)CCC(=O)OCC | C28H26N4O3S
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
catalyst | acetic acid | a few drops | C(C)(=O)O | C2H4O2
solvent | methylene chloride ethanol | C(Cl)Cl.C(C)O
product | 2-[N-(4-amidinophenyl)-N-methyl-aminomethyl]-benzothiazol-5-yl-carboxylicacid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride | Yield: 73% | Cl.C1(=CC=CC=C1)N(C(=O)C=1C=CC2=C(N=C(S2)CN(C)C2=CC=C(C=C2)C(N)=N)C1)CCC(=O)OCC | InChI=1S/C28H29N5O3S.ClH/c1-3-36-26(34)15-16-33(22-7-5-4-6-8-22)28(35)20-11-14-24-23(17-20)31-25(37-24)18-32(2)21-12-9-19(10-13-21)27(29)30;/h4-14,17H,3,15-16,18H2,1-2H3,(H3,29,30);1H
